US08791132B2
9-Methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6,7-triaza-cyclopenta[c]fluorene (600 mg, 2.643 mmol) was dissolved in DMF (18 mL), and cooled to 0° C. Potassium tert-butoxide (444 mg, 3.964 mmol) was added and stirred for 5 min. 4-Oxiranyl-pyridine (639 mg, 5.286 mmol) in DMF (3 mL) was added dropwise into the reaction mixture and the mixture was stirred at RT for 12 h. The reaction was monitored by TLC and LCMS. After consumption of starting material, the reaction mixture was quenched with ice cold water (100 mL) and extracted with EtOAc (2×100 mL). The combined organic layer was washed with water (4×70 mL), dried over anhydrous sodium sulfate and concentrated to obtain the crude product, which was purified by reverse phase chromatography to obtain 400 mg of 2-(9-Methyl-1,2,3,4,5,10c-hexahydro-3a,6,7-triaza-cyclopenta[c]fluoren-6-yl)-1-pyridin-4-yl-ethanol. 1H NMR (CD3OD, HCl salt) δ (ppm): 8.8 (d, 2H), 8.2 (d, 2H), 8.1 (s, 1H), 7.9 (s, 1H), 5.38 (m, 1H), 5.09 (t, 1H), 4.68 (dd, 2H), 4.4 (m, 1H), 3.75 (m, 4H), 3.43 (m, 2H), 2.7 (m, 2H), 2.46 (s, 3H), 2.2 (m, 3H). Separation by chiral HPLC provided diastereomers IV-209a-d.

reactant | 9-Methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6,7-triaza-cyclopenta[c]fluorene | 2.643 mmol, 600 mg | CC1=CC=2C=3C4N(CCC3NC2N=C1)CCC4 | C14H17N3
reactant | Potassium tert-butoxide | 3.964 mmol, 444 mg | CC(C)([O-])C.[K+]
reactant | 4-Oxiranyl-pyridine | 5.286 mmol, 639 mg | O1C(C1)C1=CC=NC=C1 | C7H7NO
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(9-Methyl-1,2,3,4,5,10c-hexahydro-3a,6,7-triaza-cyclopenta[c]fluoren-6-yl)-1-pyridin-4-yl-ethanol | 400 mg | CC1=CC=2C=3C4N(CCC3N(C2N=C1)CC(O)C1=CC=NC=C1)CCC4 | C21H24N4O
